US07176205B2
a) 6′-Chloro-2-methyl-[3,4′]bipyridinyl-3′-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide
To a suspension of 0.10 g (0.40 mmol) 6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-carboxylic acid in 4 ml dicloromethane were added dropwise at 0° C. under argon 0.05 ml (0.6 mmol) oxalyl chloride and one drop of DMF. The reaction mixture was allowed to slowly warm to room temperature. After 1 h the mixture was concentrated in vacuo and redissolved in 2 ml dichloromethane. This solution was added dropwise at 0° C. to a mixture of 0.16 g (0.60 mmol) (3,5-bis-trifluoromethyl-benzyl)-methyl-amine and 0.14 ml (0.80 mmol) N,N-diisopropylethylamine in 2 ml dichloromethane. After 30 min. the reaction mixture was diluted with ethyl acetate and washed with a 1 M aqueous sodium hydroxide solution. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated in vacuo to give 0.29 g of crude product. Flash chromatography gave 0.21 g (quant.) of the title compound.

reactant | 6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-carboxylic acid | 0.40 mmol, 0.10 g | ClC1=CC(=C(C=N1)C(=O)O)C=1C(=NC=CC1)C | C12H9ClN2O2
reactant | (3,5-bis-trifluoromethyl-benzyl)-methyl-amine | 0.60 mmol, 0.16 g | FC(C=1C=C(CNC)C=C(C1)C(F)(F)F)(F)F | C10H9F6N
reactant | N,N-diisopropylethylamine | 0.80 mmol, 0.14 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dicloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6′-Chloro-2-methyl-[3,4′]bipyridinyl-3′-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | FC(C=1C=C(CN(C(=O)C=2C=NC(=CC2C=2C(=NC=CC2)C)Cl)C)C=C(C1)C(F)(F)F)(F)F | C22H16ClF6N3O
